US08314091B2
C: 3-((4-(4-Amino-3-fluorobenzoyl)-2-(fluoromethyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide
N-tert-butyl-3-((4-(3-fluoro-4-nitrobenzoyl)-2-(fluoromethyl)piperazin-1-yl)methyl)benzamide (435 mg, 0.92 mmol), iron powder (558 mg, 10 mmol) and 1M hydrochloric acid (1.5 mL, 1.5 mmol) were stirred in isopropyl alcohol (30 mL) for 1 hour. The reaction was concentrated under reduced pressure and the residue partitioned between dichloromethane and water. The organic layer was separated, dried (sodium sulfate) and concentrated under reduced pressure. The crude product was purified using silica chromatography to give the title compound (150 mg). MS (ESI) m/z 445.6 [M+H]+

reactant | N-tert-butyl-3-((4-(3-fluoro-4-nitrobenzoyl)-2-(fluoromethyl)piperazin-1-yl)methyl)benzamide | 0.92 mmol, 435 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1C(CN(CC1)C(C1=CC(=C(C=C1)[N+](=O)[O-])F)=O)CF)=O | C24H28F2N4O4
reactant | hydrochloric acid | 1.5 mmol, 1M, 1.5 mL | Cl | ClH
solvent | isopropyl alcohol | 30 mL | C(C)(C)O | C3H8O
catalyst | iron | 10 mmol, 558 mg | [Fe] | Fe
product | 3-((4-(4-Amino-3-fluorobenzoyl)-2-(fluoromethyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 150 mg | NC1=C(C=C(C(=O)N2CC(N(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)CF)C=C1)F | C24H30F2N4O2
